US04772600
2-(4-Chlorophenyl)-N-(4-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under a nitrogen atmosphere, oxalyl chloride (2.43 g, 0.01914 mole) was added dropwise, slowly, to a stirred and chilled solution of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) in dimethylformamide (60 ml). The reaction mixture was stirred at room temperature for 1.5 hour. An additional portion of oxalyl chloride (0.5 ml, 0.0057 mole) was added. After additional stirring at room temperature for 0.5 hr, a solution of 4-aminopyridine (1.81 g, 0.0192 mole) in dimethylformamide (10 ml) was added and the mixture was stirred at room temperature overnight. The mixture was poured into ice water (400 ml) and the resulting solid was collected by filtration, dissolved in hot isopropyl alcohol, filtered hot, and cooled to room temperature to give a solid. The solid was collected by filtration, rinsed with water, and dried under high vacuum to give 1.0 g of title compound, mp >250° C.

reactant | oxalyl chloride | 0.01914 mole, 2.43 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | oxalyl chloride | 0.0057 mole, 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-aminopyridine | 0.0192 mole, 1.81 g | NC1=CC=NC=C1 | C5H6N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-N-(4-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 1.0 g | O.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC=NC=C1 | InChI=1S/C19H14ClN5O.H2O/c20-14-5-3-13(4-6-14)18-24-16-2-1-9-22-19(16)25(18)12-17(26)23-15-7-10-21-11-8-15;/h1-11H,12H2,(H,21,23,26);1H2
